US07015218B1
N-[3,5-Dichloro-4-(4-morpholinopiperidin-1-yl)phenyl]-5-methyl-1-(4-trifluoromethylphenyl)pyrazole-4-carboxamide ½ hydrate
By the reaction and treatment in the same manner as in Example 150 using 5-methyl-1-(4-trifluoromethylphenyl)pyrazole-4-carboxylic chloride (0.87 g) and 3,5-dichloro-4-(4-morpholinopiperidin-1-yl)aniline (1.0 g), the title compound (1.2 g) was obtained, melting point: 252–254° C.

reactant | 5-methyl-1-(4-trifluoromethylphenyl)pyrazole-4-carboxylic chloride | 0.87 g | CC1=C(C=NN1C1=CC=C(C=C1)C(F)(F)F)C(=O)Cl | C12H8ClF3N2O
reactant | 3,5-dichloro-4-(4-morpholinopiperidin-1-yl)aniline | 1.0 g | ClC=1C=C(N)C=C(C1N1CCC(CC1)N1CCOCC1)Cl | C15H21Cl2N3O
product | N-[3,5-Dichloro-4-(4-morpholinopiperidin-1-yl)phenyl]-5-methyl-1-(4-trifluoromethylphenyl)pyrazole-4-carboxamide | 1.2 g | ClC=1C=C(C=C(C1N1CCC(CC1)N1CCOCC1)Cl)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)C(F)(F)F | C27H28Cl2F3N5O2
